US09078888B2
Synthesis of 4-Bromo-6-hydroxy-2-(4-hydroxyphenyl)isoquinolin-1(2H)-one (12b)
4-Bromo-6-methoxy-2-(4-methoxyphenyl)isoquinolin-1(2H)-one (0.22 g, 0.61 mmol) was placed in a dry 150 mL single-necked flask fitted with a stirring bar and septa. Methylene chloride (30 mL) was added via a syringe. Boron tribromide (1.83 mL of 1.0 M methylene chloride solution) was added dropwise with stirring under argon atmosphere at room temperature. The reaction mixture was allowed to stir at room temperature for 20 hours. Then, 20 mL of water was added to quench the reaction. The mixture was extracted with 50 mL of ethyl acetate. The organic layer was separated, dried over anhydrous magnesium sulfate and concentrated under vacuum. The residue was subjected to flash column chromatography (silica gel, CH2Cl2/MeOH=9/1 v/v) to give a white solid product, 0.10 g, 49.4% yield. MS: 334.2 [M+H]+. 1H NMR (DMSO-d6, 300 MHz): δ 10.58 (s, 1H), 9.83 (s, 1H), 8.12 (d, 1H, J=8.7 Hz), 7.71 (s, 1H), 7.22 (d, 2H, J=8.7 Hz), 7.09 (d, 1H, J=21. Hz), 7.04 (dd, 1H, J1=8.7 Hz, J2=2.4 Hz), 6.84 (d, 2H, J=8.7 Hz).

reactant | 4-Bromo-6-methoxy-2-(4-methoxyphenyl)isoquinolin-1(2H)-one | 0.61 mmol, 0.22 g | BrC1=CN(C(C2=CC=C(C=C12)OC)=O)C1=CC=C(C=C1)OC | C17H14BrNO3
reactant | Methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
reactant | Boron tribromide | 1.0 M, 1.83 mL | B(Br)(Br)Br | BBr3
solvent | water | 20 mL | O | H2O
product | 4-Bromo-6-hydroxy-2-(4-hydroxyphenyl)isoquinolin-1(2H)-one | 49.4% yield | BrC1=CN(C(C2=CC=C(C=C12)O)=O)C1=CC=C(C=C1)O | C15H10BrNO3
